US07569579B2
Preparation 7A: N-{[(1S,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide
N-methyl-N-[((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide (1.57 g, 3.74 mmol), accessed via the method of preparation 6A, was combined with 10% palladium on activated carbon (0.35 g) in EtOAc and hydrogenated under 1 atm H2(g) for 4 h at ambient temperature. The catalyst was filtered off through celite and the filtrate concentrated to give the title product (1.17 g, 3.53 mmol, 95%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 7.68-7.18 (m, 10H), 4.07-4.03 (m, 1H), 3.72-3.66 (m, 1H), 3.55 (d, J=14.1 Hz, 1H), 3.25 (d, J=14.1 Hz, 1H), 2.36 (s, 3H), 1.59 (m, 1H), 1.18-1.15 (m, 1H), 0.79 (m, 1H). ES-LCMS m/z 354.3 (M+Na).

reactant | N-methyl-N-[((1S,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]benzenesulfonamide | 3.74 mmol, 1.57 g | CN(S(=O)(=O)C1=CC=CC=C1)C[C@@]1([C@@H](C1)COCC1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO3S
catalyst | palladium on activated carbon | 0.35 g | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[(1S,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | 3.53 mmol, 1.17 g, 95% | OC[C@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H21NO3S
